US09359381B2
Step 10: 10-(4-Chlorothiazol-2-yl)-5-(3-fluorophenyl)-8-(hydroxymethyl)-1,3-dimethyl-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione
A mixture of 10-(4-Chlorothiazol-2-yl)-5-(3-fluorophenyl)-8-(hydroxymethyl)-1,3-dimethyl-7,8-dihydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione (310 mg, 0.66 mmol) and 10% platinum on carbon (310 mg) in ethanol (22 mL) and tetrahydrofuran (22 mL) was stirred under an atmosphere of hydrogen for 3 days. The reaction mixture was filtered and the filtrates concentrated under vacuum. The residue was dissolved in ethanol (22 mL) and tetrahydrofuran (22 mL), fresh 10% platinum on carbon (310 mg) was added and the mixture further stirred under an atmosphere of hydrogen for 5 days. The reaction mixture was filtered and the filtrates evaporated under vacuum. The residue was dissolved in 10 mL of 5% MeOH/DCM and the solution was treated with silica-TMT (trimercaptotriazine functionalized silica, ˜1 g) for 5 minutes, then filtered. The residue was washed with 5% MeOH/DCM and the filtrates evaporated under vacuum.

reactant | 10-(4-Chlorothiazol-2-yl)-5-(3-fluorophenyl)-8-(hydroxymethyl)-1,3-dimethyl-7,8-dihydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | 0.66 mmol, 310 mg | ClC=1N=C(SC1)C1=CC(CN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)CO | C22H18ClFN4O3S
catalyst | platinum on carbon | 310 mg | [Pt] | Pt
solvent | ethanol | 22 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
product | 10-(4-Chlorothiazol-2-yl)-5-(3-fluorophenyl)-8-(hydroxymethyl)-1,3-dimethyl-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | ClC=1N=C(SC1)C1CC(CN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)CO | C22H20ClFN4O3S
